US06528504B2
5,11-Dihydro-5-[2-[N-(3-dimethylaminophenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine Dihydrochloride
5 ml of 2 M hydrochloric acid/ethyl ether was added to 5,11-dihydro-5-[2-[N-(3-dimethylaminophenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine (296 mg, 0.74 mmol), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of light green crystals (285 mg, 81%).

reactant | hydrochloric acid ethyl ether | 2 M, 5 ml | Cl.C(C)OCC
reactant | 5,11-dihydro-5-[2-[N-(3-dimethylaminophenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine | 0.74 mmol, 296 mg | CN(C=1C=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=CC1)C | C26H31N3O
product | 5,11-Dihydro-5-[2-[N-(3-dimethylaminophenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine Dihydrochloride | Cl.Cl.CN(C=1C=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=CC1)C | InChI=1S/C26H31N3O.2ClH/c1-27(2)23-11-8-9-21(19-23)15-16-28(3)17-18-29-24-12-5-4-10-22(24)20-30-26-14-7-6-13-25(26)29;;/h4-14,19H,15-18,20H2,1-3H3;2*1H
